US08357717B2
Stage 1: tert-Butyl 4-(pyrrolidin-1-yl)-5,6-dihydropyridine-1(2H)-carboxylate
Catalytic amounts of p-toluenesulfonic acid (0.47 g, 0.27 mmol) were added to a solution of N-Boc-4-piperidone (5 g, 25.12 mmol) and pyrrolidine (1.96 g, 27.63 mmol) in toluene (100 ml), and the mixture was stirred for 2 hours under reflux with a water separator. The resulting solution was concentrated to dryness in vacuo and the resulting residue was used directly in the following stage.

reactant | p-toluenesulfonic acid | 0.27 mmol, 0.47 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | N-Boc-4-piperidone | 25.12 mmol, 5 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | pyrrolidine | 27.63 mmol, 1.96 g | N1CCCC1 | C4H9N
reactant | water | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 4-(pyrrolidin-1-yl)-5,6-dihydropyridine-1(2H)-carboxylate | N1(CCCC1)C1=CCN(CC1)C(=O)OC(C)(C)C | C14H24N2O2
